* /home/janakiram.emani/janakiram_elevator/elevator/elevator.cir

* u1  ? ? ? ? ? ? ? ? ? janakiram_elevator
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ janakiram_elevator
* u3  clk0 rst0 ra0 rb0 rc0 rd0 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ adc_bridge_6
* u4  net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ dac_bridge_3
v7  rd0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 10)
v6  rc0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 8)
v5  rb0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 6)
v4  ra0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 4)
v3  rst0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 1000)
v2  clk0 gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
r1  net-_r1-pad1_ floor1 1k
r2  net-_r2-pad1_ floor0 1k
r3  net-_r3-pad1_ dir0 1k
c1  floor1 gnd 1u
c2  floor0 gnd 1u
c3  dir0 gnd 1u
* u12  floor0 plot_v1
* u11  floor1 plot_v1
* u13  dir0 plot_v1
* u5  clk0 plot_v1
* u6  rst0 plot_v1
* u7  ra0 plot_v1
* u8  rb0 plot_v1
* u9  rc0 plot_v1
* u10  rd0 plot_v1
a1 [? ] [? ] [? ] [? ] [? ] [? ] [? ? ] [? ] u1
a2 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] [net-_u2-pad5_ ] [net-_u2-pad6_ ] [net-_u2-pad7_ net-_u2-pad8_ ] [net-_u2-pad9_ ] u2
a3 [clk0 rst0 ra0 rb0 rc0 rd0 ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u3
a4 [net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ ] [net-_r1-pad1_ net-_r2-pad1_ net-_r3-pad1_ ] u4
* Schematic Name:                             janakiram_elevator, NgSpice Name: janakiram_elevator
.model u1 janakiram_elevator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             janakiram_elevator, NgSpice Name: janakiram_elevator
.model u2 janakiram_elevator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(floor0)+50 v(floor1)+43 v(dir0)+36 v(clk0) v(rst0)+5 v(ra0)+11 v(rb0)+17 v(rc0)+22 v(rd0)+29
.endc
.end
